US09428503B2
Intermediate V3: 6-Bromo-4-[[(3R)-tetrahydrofuran-3-yl]amino]quinoline-3-carboxylic acid
Sodium hydroxide (0.657 g, 16.43 mmol) was added to ethyl 6-bromo-4-[[(3R)-tetrahydrofuran-3-yl]amino]quinoline-3-carboxylate (3 g, 8.21 mmol) in THF (60 mL) and water (30 mL) and the resulting mixture stirred at 60° C. overnight. The aqueous component was removed under reduced pressure and the remaining solution was adjusted to pH 6 with 2 M HCl. The solids were collected by filtration and dried in an oven to afford the desired material as a white solid (2.1 g, 76%). NMR Spectrum: 1H NMR (300 MHz, MeOH-d4) δ 2.05-2.08 (1H, m), 2.38-2.48 (1H, m), 3.72-3.93 (4H, m), 4.83-5.01 (1H, m) 7.09 (1H, d), 8.04 (1H, d), 8.55 (1H, s), 8.95 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=339.

reactant | Sodium hydroxide | 16.43 mmol, 0.657 g | [OH-].[Na+]
reactant | ethyl 6-bromo-4-[[(3R)-tetrahydrofuran-3-yl]amino]quinoline-3-carboxylate | 8.21 mmol, 3 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)N[C@H]1COCC1 | C16H17BrN2O3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 6-Bromo-4-[[(3R)-tetrahydrofuran-3-yl]amino]quinoline-3-carboxylic acid | 2.1 g, 76% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)N[C@H]1COCC1 | C14H13BrN2O3
